US08629282B2
Racemic 3-(6-azido-5-(tert-butyldimethylsilyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl)-5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazole (500 mg, 0.86 mmol) was dissolved in MeOH (2131 μL), ethyl acetate (2131 μL), and CH2Cl2 (2131 μL). To this solution was added tin(II) chloride dihydrate (1.94 mg, 8.6 mmol) and the reaction mixture was stirred overnight. The solvent was evaporated and the residue was redissolved in CH2Cl2 and washed with 1N NaOH and brine. The organic phase was dried over MgSO4 and concentrated to afford racemic (1S*,2R*)-1-(tert-butyldimethylsilyloxy)-6-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-2-amine (46.2 mg, 0.83 mmol, 96.5%) as a pale yellow oil: LCMS=557.44 [M+H]+.

reactant | Racemic 3-(6-azido-5-(tert-butyldimethylsilyloxy)-5,6,7,8-tetrahydronaphthalen-2-yl)-5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazole | 0.86 mmol, 500 mg | N(=[N+]=[N-])C1C(C=2C=CC(=CC2CC1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C | C28H29F3N6O3Si
reactant | ethyl acetate | 2131 μL | C(C)(=O)OCC | C4H8O2
reactant | CH2Cl2 | 2131 μL | C(Cl)Cl | CH2Cl2
reactant | tin(II) chloride dihydrate | 8.6 mmol, 1.94 mg | O.O.[Sn](Cl)Cl
solvent | MeOH | 2131 μL | CO | CH4O
product | racemic (1S*,2R*)-1-(tert-butyldimethylsilyloxy)-6-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-2-amine | 0.83 mmol, 46.2 mg, 96.5% | [Si](C)(C)(C(C)(C)C)OC1C(CCC2=CC(=CC=C12)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)N | C28H31F3N4O3Si
